US07939534B2
2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)-6-(pyrrolidin-1-yl)nicotinamide
A mixture of 6-chloro-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide (50 mg, 0.13 mmol) and pyrrolidine (94 mg, 1.3 mmol) in a sealed tube was heated to 150° C. for 10 min. LC/MS indicated the reaction was complete. The crude was diluted with MeOH, filtered, and purified on RP-HPLC using a mixture of acetonitrile and H2O to a give 2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)-6-(pyrrolidin-1-yl)nicotinamide (20.2 mg, 37%). LRMS (M+H+) m/z 420.2.

reactant | 6-chloro-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide | 0.13 mmol, 50 mg | ClC1=NC(=C(C(=O)NCC=2C=NC=CC2)C=C1)NCCC1=CC(=CC=C1)F | C20H18ClFN4O
reactant | pyrrolidine | 1.3 mmol, 94 mg | N1CCCC1 | C4H9N
solvent | MeOH | CO | CH4O
product | 2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)-6-(pyrrolidin-1-yl)nicotinamide | FC=1C=C(CCNC2=C(C(=O)NCC=3C=NC=CC3)C=CC(=N2)N2CCCC2)C=CC1 | C24H26FN5O
